US09278953B2
To a solution of 2-chloro-6-methoxypyridine (100 g, 696 mmol) in anhydrous THF (1.0 L) was added a solution of tert-BuLi in pentane (1.3 M, 640 mL, 836 mmol) at −68° C. dropwise. The reaction mixture was stirred for 30 min at this temperature. To the reaction mixture was added a solution of ethyl glyoxalate (109 g, 940 mmol) in THF (400 mL) was added dropwise below −60° C. over 1.5 h, and the resulting mixture was stirred at this temperature for 1 h. The reaction mixture was poured into ice water (10 L), extracted with EtOAc (10 L), dried over Na2SO4, and concentrated. The crude product was purified by silica gel column chromatography (petroleum ether→petroleum ether EtOAc=5:1) to afford ethyl 2-(6-chloro-2-methoxypyridin-3-yl)-2-hydroxypropanoate (360 g, 50%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 1.20 (t, 3H), 1.75 (s, 3H), 3.95 (s, 3H), 4.20 (q, 2H), 6.95 (d, 1H), 7.67 (d, 1H).

reactant | 2-chloro-6-methoxypyridine | 696 mmol, 100 g | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | tert-BuLi | [Li]C(C)(C)C
reactant | pentane | 836 mmol, 1.3 M, 640 mL | CCCCC | C5H12
reactant | ethyl glyoxalate | 940 mmol, 109 g | C(C=O)(=O)OCC | C4H6O3
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | ethyl 2-(6-chloro-2-methoxypyridin-3-yl)-2-hydroxypropanoate | 360 g, 50% | ClC1=CC=C(C(=N1)OC)C(C(=O)OCC)(C)O | C11H14ClNO4
